* ============================================================================
* Neve BA283 — discrete Class-A gain block (B183.110 makeup amp, isolated)
* PedalKernel Validation Circuit
* ============================================================================
* Mirrors pedalkernel-pro/pedals/500/1073/ba283.pedal exactly (no transformers).
* SCHEMATIC-VERIFIED values (B183.110 BA283 makeup amplifier):
*   TR3 (BC184) common-emitter voltage gain  — R3" 68k load, R4" 1k2 emitter
*   TR1 (BC184) + TR2 (2N3055) Darlington output — R6" 18k, R7" 47
*   Shunt feedback: out -> RU1 5k -> CGAIN" 100u -> R2" 56k -> gnd, C3" 4n7 to base
*   Input: C"4 10u -> R"1 2k2 -> TR3 base.   Single +24 V rail (node m via R1 10R).
*
* Pot RU1 = pot(5k) linear, GAIN at 0.5 -> 0.5 * 5000 = 2500 Ohm (matches WDF).
* Source node: v_in (harness-driven). Output node: v_out. Supply: +24 V.
* ============================================================================

* ── Rail decoupling ──────────────────────────────────────────────────────────
VCC   vcc   0    DC 24
R1d   vcc   m    10

* ── Input → TR3 base ─────────────────────────────────────────────────────────
Cin   v_in  ni1  10u
Rin   ni1   nb3  2.2k

* ── TR3 common-emitter voltage gain ──────────────────────────────────────────
R3    m     n1   68k
Cmil  nb3   n1   220p
Q3    n1    nb3  ne3   QBC184C
R4    ne3   0    1.2k
* R5" + C5'1 series HF comp: n1 → ne3
Rcmp  n1    nrc  3.3k
Ccmp  nrc   ne3  330p

* ── TR1 / TR2 Darlington output ──────────────────────────────────────────────
Q1    m     n1   ne1   QBC184C
R6    ne1   0    18k
Q2    m     ne1  nd    Q2N3055
R7    nd    0    47

* ── Shunt feedback: out → RU1 → CGAIN → R2" → gnd, C3" → TR3 base ─────────────
Rru   nd    nx   2500
Cgn   nx    nfb  100u
Rfb   nfb   0    56k
Cfb   nfb   nb3  4.7n

* ── Output coupling + load (validation only) ─────────────────────────────────
Cout  nd    v_out  10u
RL    v_out 0      10k

* ── Models (mirror models/transistors.model) ─────────────────────────────────
.MODEL QBC184C NPN(IS=14.8f BF=500 BR=10 NF=1.0 NR=1.0 VAF=50 VAR=15
+ IKF=100m IKR=200m ISE=10p NE=1.5 ISC=0 NC=2.0 RB=500 RE=0.5 RC=1
+ CJE=15p VJE=0.65 MJE=0.33 CJC=5p VJC=0.5 MJC=0.33 TF=0.5n TR=10n)
.MODEL Q2N3055 NPN(IS=4.66p BF=360 BR=2.0 NF=1.0 NR=1.0 VAF=100 IKF=250m
+ ISE=33.39p NE=1.5 ISC=5n NC=2.0 RB=3 RE=0 RC=0.04 CJE=580.2p VJE=1.2
+ MJE=0.45 CJC=212.1p VJC=0.75 MJC=0.4 TF=80n TR=2.55u)
